US05840217
2,2',7,7'-Tetraphenyl-9,9'-spirobifluorene
5 g (7.9 mmol) of 2,2',7,7'-tetrabromo-9,9-spirobifluorene, 3.86 g (31.6 mmol) of phenylboronic acid, 331.5 mg (1.264 mmol) of triphenylphosphine and 70.9 mg (0.316 mmol) of palladium acetate are slurried in a mixture of 65 ml of toluene and 40 ml of aqueous sodium carbonate solution (2M). With vigorous stirring, the mixture is boiled under reflux for 24 hours. After cooling to room temperature, the solid is filtered off with suction, washed with water and dried in vacuo at 50° C. 2.58 g are obtained. The filtrate is extracted with 50 ml of toluene and the dried organic phase is evaporated to dryness. This gives a further 1.67 g. Total yield: 4.25 g (86%)

reactant | 2,2',7,7'-tetrabromo-9,9-spirobifluorene | 7.9 mmol, 5 g | BrC1=CC=2C3(C4=CC(=CC=C4C2C=C1)Br)C1=CC(=CC=C1C=1C=CC(=CC13)Br)Br | C25H12Br4
reactant | phenylboronic acid | 31.6 mmol, 3.86 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triphenylphosphine | 1.264 mmol, 331.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 65 ml | C1(=CC=CC=C1)C | C7H8
solvent | sodium carbonate | 2M, 40 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | palladium acetate | 0.316 mmol, 70.9 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2,2',7,7'-Tetraphenyl-9,9'-spirobifluorene | C1(=CC=CC=C1)C1=CC=2C3(C4=CC(=CC=C4C2C=C1)C1=CC=CC=C1)C1=CC(=CC=C1C=1C=CC(=CC13)C1=CC=CC=C1)C1=CC=CC=C1 | C49H32
